US09301951B2
2-(2-(3-((N-methyl-2-morpholinoacetamido)methyl)benzamido)-5-(piperidin-1-yl)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide
Into a 50-mL round-bottom flask, was placed a solution of 2-morpholinoacetic acid (25.0 mg, 0.17 mmol, 1.00 equiv) in dichloromethane (10 mL), EDC.HCl (50.0 mg, 0.26 mmol, 1.50 equiv), 4-dimethylaminopyridine (32.0 mg, 0.26 mmol, 1.50 equiv), and N-(3-(trifluoromethyl)benzyl)-2-(2-(3-((methylamino)methyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide (1000 mg, 1.66 mmol, 1.00 equiv). The resulting solution was stirred for 6 h at 25° C. in an oil bath. The resulting solution was diluted with 50 mL of dichloromethane. The resulting mixture was washed with 2×30 mL of aqueous NH4Cl. The resulting mixture was washed with brine. The mixture was dried over sodium sulfate and concentrated under vacuum. The crude product (120 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 47.4 mg (26%) of a pale-yellow solid. 1H-NMR (300 MHz, CD3OD, ppm): δ 8.90-8.98 (m, 1H), 8.57-8.64 (m, 1H), 8.40 (s, 1H), 7.84-8.00 (m, 4H), 7.54-7.72 (m, 7H), 4.72-4.76 (m, 4H), 4.36-4.38 (m, 2H), 3.96 (m, 4H), 3.58-3.61 (m, 4H), 3.01 (s, 3H), 1.99-2.00 (m, 4H), 1.75 (m, 2H). MS (ES, m/z) 729 [M+H]+.

reactant | 2-morpholinoacetic acid | 0.17 mmol, 25.0 mg, 1.00 equiv | O1CCN(CC1)CC(=O)O | C6H11NO3
reactant | EDC.HCl | 0.26 mmol, 50.0 mg, 1.50 equiv | CCN=C=NCCCN(C)C.Cl
reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-(3-((methylamino)methyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide | 1.66 mmol, 1000 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(C2=CC(=CC=C2)CNC)=O)=O)C=CC1)(F)F | C34H34F3N5O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.26 mmol, 32.0 mg, 1.50 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-(2-(3-((N-methyl-2-morpholinoacetamido)methyl)benzamido)-5-(piperidin-1-yl)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide | 47.4 mg, 26% | CN(C(CN1CCOCC1)=O)CC=1C=C(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C=2C=C(C(=O)NCC3=CC(=CC=C3)C(F)(F)F)C=CN2)C=CC1 | C40H43F3N6O4
